US04837026
Preparation of 1-hexanoylpyrrolidine
Hexanoyl chloride (13.46 g, 0.1M) was added gradually to a cooled, stirred solution of pyrrolidine (7,25 g, 0.1M) in 200 ml of benzene and dry pyridine (7.91 g, 0.1M). Two hours after the addition water was added. The organic layer was washed successively with 5% aqueous hydrochloric acid, saturated sodium bicarbonate solution, and saturated sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. Distillation of the residue gave 13.52 g (80%) of a colorless oil, b.p. 98-100/7 mm.

reactant | Hexanoyl chloride | 0.1M, 13.46 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | pyrrolidine | 0.1M, 7,25 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 0.1M, 7.91 g | N1=CC=CC=C1 | C5H5N
product | 1-hexanoylpyrrolidine | 13.52 g, 80% | C(CCCCC)(=O)N1CCCC1 | C10H19NO
